US07446118B2
Synthesis of 4-Bromo-1H-indazol-3-ol (CLXXXIII)
To a mixture of 3-bromo-2-carboxyaniline (6.6 g, 30.6 mmol, see Aust. J. Chem., 1999, 52, 1061) in H2O (28 ml) and HCl (conc., 6 ml) was added a solution of NaNO2 (2.11 g, 30 mmol) in H2O (5 ml) at 0° C. The mixture was stirred at 0° C. for 30 minutes then a solution of Na2SO3 (10.4 g, 82.5 mmol) in H2O (28 ml) was added slowly. The mixture was stirred at room temperature for 2 hours and HCl (conc., 9 ml) was slowly added. The resulting mixture was stirred at room temperature for additional 18 hours, then at 80° C. for 4 hours, and finally cooled to room temperature. The reaction mixture was basified to dissolve the precipitate and then reacidified. The precipitated 4-Bromo-1H-indazol-3-ol CLXXXIII was filtered and dried in vacuo (yellow powder, 3.19 g, 49% yield).

reactant | 3-bromo-2-carboxyaniline | 30.6 mmol, 6.6 g | BrC=1C(=C(N)C=CC1)C(=O)O | C7H6BrNO2
reactant | NaNO2 | 30 mmol, 2.11 g | N(=O)[O-].[Na+]
reactant | Na2SO3 | 82.5 mmol, 10.4 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | H2O | 28 ml | O | H2O
solvent | HCl | 6 ml | Cl | ClH
solvent | H2O | 5 ml | O | H2O
solvent | H2O | 28 ml | O | H2O
solvent | HCl | 9 ml | Cl | ClH
product | 4-Bromo-1H-indazol-3-ol | 49% yield | BrC1=C2C(=NNC2=CC=C1)O | C7H5BrN2O
